4
R0100 1 0 1
R0203 2 3 1
L0402 4 2 0.586082142617872940
L0104 1 4 0.881627694904598500
C0200 2 0 1.415174707426466310
C0400 4 0 2.130674656969229800
C0100 1 0 1.844218243238877410
C0402 4 2 1.085374806121910160
C0104 1 4 0.364397675632797990
V0300 3 0 PULSE 0 1 0 1 1 49 100 5
.TRAN 15 10000E-5 ADMO3 1 UIC
